US04291163
A mixture of quinoline-2-carboxylic acid (30 g, 0.17 mole), glacial acetic acid (1000 ml), and PtO2 (2.0 g) was subjected to hydrogenation at room temperature for 3 hours using 51.7 psia H2 (theory: 58.7 psia H2). The catalyst was removed by filtration and the filtrate was stripped of solvent under reduced pressure. The residue was dissolved in acetonitrile (300 ml) and the mixture was cooled. The product was collected by filtration and washed with acetonitrile and ether; m.p. 254°-258°; yield: 20 g. The filtrate was diluted with ether, cooled, and the product was collected by filtration. The two products were combined to give 23 g (74%) of decahydroquinoline-2-carboxylic acid.

reactant | quinoline-2-carboxylic acid | 0.17 mole, 30 g | N1=C(C=CC2=CC=CC=C12)C(=O)O | C10H7NO2
catalyst | PtO2 | 2.0 g | O=[Pt]=O
solvent | acetic acid | 1000 ml | C(C)(=O)O | C2H4O2
product | decahydroquinoline-2-carboxylic acid | 23 g, 74% | N1C(CCC2CCCCC12)C(=O)O | C10H17NO2
